US04024281
To a solution of 9.35 g. of N,N'-dibenzyl-N,N'-bis[2-(3-aminomethyl-4-benzyloxyphenyl)-2-hydroxyethyl]-hexamethylenediamine in 50 ml. of pyridine is added 2.5 ml. of methanesulfonyl chloride at room temperature. After 18 hours the reaction mixture is added to an excess of 2N hydrochloric acid and extracted with chloroform. The extract is neutralized with sodium bicarbonate, washed, dried and evaporated to give N,N'-dibenzyl-N,N'-bis[2-(4-benzyloxy-3-methanesulfonamidomethylphenyl)-2-hydroxyethyl]-hexamethylenediamine. The latter, as the dihydrochloride, is hydrogenated with palladium-on-carbon to yield N,N'-bis[2-(4-hydroxy-3-methanesulfonamidomethylphenyl)-2-hydroxyethyl]-hexamethylenediamine dihydrochloride.

reactant | N,N'-dibenzyl-N,N'-bis[2-(3-aminomethyl-4-benzyloxyphenyl)-2-hydroxyethyl]-hexamethylenediamine | C(C1=CC=CC=C1)N(CCCCCCN(CC(C1=CC(=C(C=C1)OCC1=CC=CC=C1)CN)O)CC1=CC=CC=C1)CC(O)C1=CC(=C(C=C1)OCC1=CC=CC=C1)CN | C52H62N4O4
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | N,N'-dibenzyl-N,N'-bis[2-(4-benzyloxy-3-methanesulfonamidomethylphenyl)-2-hydroxyethyl]-hexamethylenediamine | C(C1=CC=CC=C1)N(CCCCCCN(CC(C1=CC(=C(C=C1)OCC1=CC=CC=C1)CNS(=O)(=O)C)O)CC1=CC=CC=C1)CC(O)C1=CC(=C(C=C1)OCC1=CC=CC=C1)CNS(=O)(=O)C | C54H66N4O8S2
